US05147749
Preparation of N-Ethylquinolinium Tetraphenylborate
A solution of 28.5 g (0.10 mol) of N-ethylquinolinium iodide in 300 mL of water was added to a solution of 34.2 g (0.10 mol) of sodium tetraphenylborate in 350 mL of water. A precipitate immediately formed. The mixture was stirred 30 minutes and was then filtered. The solid was washed with water and methanol and recrystallized from acetonitrile. The solid was collected and dried to give 27.2 g (57.0%) of product; mp=215°-218° C. 1H NMR was consistent with the proposed structure. Atomic analysis calculated for C35H32BN (477.46): 88.0% C, 6.8% H, 2.3% B, 2.9% N. Found: 88.5% C, 6.8% H, 2.2% B, 2.7% N.

reactant | N-ethylquinolinium iodide | 0.10 mol, 28.5 g | [I-].C(C)[N+]1=CC=CC2=CC=CC=C12
reactant | sodium tetraphenylborate | 0.10 mol, 34.2 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
solvent | water | 300 mL | O | H2O
solvent | water | 350 mL | O | H2O
product | N-Ethylquinolinium Tetraphenylborate | 27.2 g, 57.0% | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C(C)[N+]1=CC=CC2=CC=CC=C12 | InChI=1S/C24H20B.C11H12N/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-2-12-9-5-7-10-6-3-4-8-11(10)12/h1-20H;3-9H,2H2,1H3/q-1;+1
